US05179212
To a solution of (R)-3-hydroxy-4-(p-toluenesulfonyloxy)butyronitrile (17.4 g) in methanol (120 ml), 10 wt. % Pd on carbon (3.0 g) and conc. hydrochloric acid (30 ml) were added. The mixture was stirred in a hydrogen atmosphere of 4. 0 kg/cm2 at room temperature for 20 hours. After filtrating off the catalyst, the mixture was evaporated under reduced pressure to obtain a crude product, which was purified by silica gel column chromatography (Wako Gel C200, an eluent: methanol/acetone (volume ratio of 3/7) to obtain pure (R)-3-hydroxy-4-(p-toluenesulfonyloxy)butylamine hydrochloride (18.4 g). Yield, 91 %.

reactant | (R)-3-hydroxy-4-(p-toluenesulfonyloxy)butyronitrile | 17.4 g | O[C@H](CC#N)COS(=O)(=O)C1=CC=C(C=C1)C | C11H13NO4S
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 120 ml | CO | CH4O
catalyst | Pd on carbon | 3.0 g | [Pd] | Pd
product | (R)-3-hydroxy-4-(p-toluenesulfonyloxy)butylamine hydrochloride | 18.4 g | Cl.O[C@H](CCN)COS(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C11H17NO4S.ClH/c1-9-2-4-11(5-3-9)17(14,15)16-8-10(13)6-7-12;/h2-5,10,13H,6-8,12H2,1H3;1H/t10-;/m1./s1
